US04156005
Phenylisocyanate (1.19 g) is added slowly to a solution of 2.66 g of 3,5-dichloro-4,6,-dimethoxysalicylaldoxime in 20 ml of tetrahydrofuran. The clear solution is allowed to stand at room temperature for 16 hours. It is poured into 250 ml of water and the resulting precipitate is filtered, washed with water, and recrystallized from ethanol to give 1.4 g (56.5%) of 5,7-dichloro-4,6-dimethoxy-1,2-benzisoxazole, m.p. 138°-140° C.

reactant | Phenylisocyanate | 1.19 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3,5-dichloro-4,6,-dimethoxysalicylaldoxime | 2.66 g | ClC1=C(C(C=NO)=C(C(=C1OC)Cl)OC)O | C9H9Cl2NO4
reactant | water | 250 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5,7-dichloro-4,6-dimethoxy-1,2-benzisoxazole | 1.4 g, 56.5% | ClC=1C(=C(C2=C(C=NO2)C1OC)Cl)OC | C9H7Cl2NO3
